US08232390B2
Step 1: methyl 3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H,1′H-2,4′-biindole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H-indole-6-carboxylate (prepared from commercially available methyl indole-6-carboxylate as described in WO 2004/087714) in dioxane (0.15 M) were added 6 eq of Na2CO3 (2 M aqueous solution), 1.5 eq of 1H-indol-4-ylboronic acid and 0.2 eq of bis(triphenylphosphine)palladium(II) dichloride. The mixture was heated at reflux for 1.5 h. The reaction mixture was filtered and then the filtrate was diluted with EtOAc. The organic phase was washed with aqueous Na2CO3, brine and dried over Na2SO4 before being filtered and concentrated in vacuo. The crude was purified by flash chromatography (Biotage cartridge, 6.0:4.0 EtOAc/PE) to afford the title compound (95%). MS (ES+) m/z 458 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H-indole-6-carboxylate | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(=O)N(C)C | C20H25BrN2O3
reactant | methyl indole-6-carboxylate | N1C=CC2=CC=C(C=C12)C(=O)OC | C10H9NO2
reactant | Na2CO3 | 2 M, 6 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1H-indol-4-ylboronic acid | 1.5 eq | N1C=CC2=C(C=CC=C12)B(O)O | C8H8BNO2
solvent | dioxane | 0.15 M | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.2 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H,1′H-2,4′-biindole-6-carboxylate | 95% | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC(=O)N(C)C)C=1C=2C=CNC2C=CC1 | C28H31N3O3
